US07723349B2
Step 4. Tetrahydro-2H-pyran-4-yl(6S,7S)-7-(((benzyloxy)amino)carbonyl)-6-((4-phenylpiperazin-1-yl)carbonyl)-5-azaspiro(2,5)octane-5-carboxylate
(6S,7S)-N-(benzyloxy)-6-((4-phenyl)piperazin-1-yl)carbonyl)-5-azaspiro(2,5)octane-7-carboxamide (18.6 mg, 0.041 mmole) was mixed with 4-nitrophenyl-tetrahydropyran-4-yl carbonate (13.3 mg, 0.050 mmole), and DIEA (11.0 mg, 0.083 mmole) in THF and stirred at r.t. for 24 hours. After concentration, the crude material was purified with flash column to afford the desired product (6.0 mg) in quantitative yield.

reactant | 5-azaspiro(2,5)octane-7-carboxamide | 0.041 mmole, 18.6 mg | C1CC12CNCC(C2)C(=O)N | C8H14N2O
reactant | 4-nitrophenyl-tetrahydropyran-4-yl carbonate | 0.050 mmole, 13.3 mg | C(OC1CC(OCC1)C1=CC=C(C=C1)[N+](=O)[O-])([O-])=O
reactant | DIEA | 0.083 mmole, 11.0 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | C1CCOC1 | C4H8O
product | Tetrahydro-2H-pyran-4-yl(6S,7S)-7-(((benzyloxy)amino)carbonyl)-6-((4-phenylpiperazin-1-yl)carbonyl)-5-azaspiro(2,5)octane-5-carboxylate | 6.0 mg, quantitative yield | C(C1=CC=CC=C1)ONC(=O)[C@@H]1[C@H](N(CC2(CC2)C1)C(=O)OC1CCOCC1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C32H40N4O6
